US04107205
When an equivalent quantity of α-(o-chlorophenyl)-α-[2-(diisopropylamino)ethyl]acetonitrile prepared according to the first paragraph of Example 19, is substituted for α-(o-fluorophenyl)-α-[2-(diisopropylamino)ethyl]acetonitrile called for in Example 20 and the procedure detailed in the second paragraph of that example is substantially repeated, there is obtained α-(o-chlorophenyl)-α-[2-(diisopropylamino)ethyl]-α-(2-piperidinoethyl)acetonitrile, as an oil boiling at about 190°-195° C. at 0.3 mm. pressure.

reactant | α-(o-chlorophenyl)-α-[2-(diisopropylamino)ethyl]acetonitrile | ClC1=C(C=CC=C1)C(C#N)CCN(C(C)C)C(C)C | C16H23ClN2
reactant | α-(o-fluorophenyl)-α-[2-(diisopropylamino)ethyl]acetonitrile | FC1=C(C=CC=C1)C(C#N)CCN(C(C)C)C(C)C | C16H23FN2
product | α-(o-chlorophenyl)-α-[2-(diisopropylamino)ethyl]-α-(2-piperidinoethyl)acetonitrile | ClC1=C(C=CC=C1)C(C#N)(CCN1CCCCC1)CCN(C(C)C)C(C)C | C23H36ClN3
